US09145380B2
(E)-2-(2-(3-(Trifluoromethyl)phenyl)vinylsulfonamido)benzenesulfonamide
The title compound was synthesized as described for Example 178 in 37% yield, starting from 2-aminobenzenesulfonamide and (E)-2-(3-(trifluoromethyl)phenyl)ethenesulfonyl chloride.

reactant | 2-aminobenzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | (E)-2-(3-(trifluoromethyl)phenyl)ethenesulfonyl chloride | FC(C=1C=C(C=CC1)/C=C/S(=O)(=O)Cl)(F)F | C9H6ClF3O2S
product | (E)-2-(2-(3-(Trifluoromethyl)phenyl)vinylsulfonamido)benzenesulfonamide | 37% yield | FC(C=1C=C(C=CC1)/C=C/S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N)(F)F | C15H13F3N2O4S2
